US08633134B2
Step 1: Synthesis of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid N′,N′-dimethyl-hydrazide
To a solution of N,N-dimethyl hydrazine (0.55 g) in ether (46 mL) was added 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoyl chloride (2.00 g) in small portions at 0° C. After 50 min at this temperature, water was added and the pH was adjusted to 7 by addition of NaOH (2 M). The organic layer was separated and the aqueous layer was extracted with ether. Combined organic layers were washed with NaHCO3 solution, dried over Na2SO4 and evaporated to give the title compound (1.50 g, 71%).

reactant | N,N-dimethyl hydrazine | 0.55 g | CN(N)C | C2H8N2
reactant | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoyl chloride | 2.00 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)Cl)C=C1)C)C(F)(F)F | C18H11Cl3F3NO2
reactant | water | O | H2O
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | ether | 46 mL | CCOCC | C4H10O
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid N′,N′-dimethyl-hydrazide | 1.50 g, 71% | CN(NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)C | C20H18Cl2F3N3O2
